US08084448B2
B. (S)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-2-tert-butoxycarbonylaminopropionic Acid Tert-butyl Ester
To a suspension of zinc powder (645 mg, 9.9 mmol) in DMF (1 mL) under argon is added chlorotrimethylsilane (83 mg, 0.76 mmol) and the mixture is stirred at RT for 30 min. To this is added a solution of (R)-2-tert-butoxycarbonylamino-3-iodopropionic acid tert-butyl ester (1.1 g, 2.96 mmol) in DMF (1.8 mL) dropwise and the mixture is stirred at RT for 30 min. An additional 2.5 mL of DMF is added and any insoluble material is filtered. The filtrate is added to a mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (900 mg, 1.65 mmol), tri-o-tolylphosphine (100 mg, 0.33 mmol) and Pd2(dba)3 (74 mg, 0.08 mmol) and the mixture is stirred at RT for 90 min. Water is added and the mixture is extracted with EtOAc. The organic phase is washed with water (2×) and brine then is dried over sodium sulfate. The solvent is remover under reduced pressure and the residue is purified by flash chromatography using EtOAc/hexane (10%) as eluent to give the title compound as an off-white solid.

reactant | chlorotrimethylsilane | 0.76 mmol, 83 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | (R)-2-tert-butoxycarbonylamino-3-iodopropionic acid tert-butyl ester | 2.96 mmol, 1.1 g | C(C)(C)(C)OC([C@H](CI)NC(=O)OC(C)(C)C)=O | C12H22INO4
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1.65 mmol, 900 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | tri-o-tolylphosphine | 0.33 mmol, 100 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 9.9 mmol, 645 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.08 mmol, 74 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (S)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-2-tert-butoxycarbonylaminopropionic Acid Tert-butyl Ester | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C32H47N3O8SSi
